US08604019B2
N-[2-(2,3-Dihydro-1,4-benzoxazepin-4(5H)-yl)thieno[3,2-d]pyrimidin-4-yl]propane-1,3-diamine
The title compound was prepared in analogy to Example 1-1 in Scheme 1 by using 2,4-dichlorothieno[3,2-d]pyrimidine and propane-1,3-diamine, followed by reaction with 2,3,4,5-tetrahydrobenzo[f][1,4]oxazepine. MS obsd. (ESI+) [(M+H)+] 356, 1H NMR (400 MHz, METHANOL-d4) δ ppm 7.72 (d, J=5.3 Hz, 1H), 7.43 (d, J=7.1 Hz, 1H), 7.12-7.18 (m, 1H), 7.08 (d, J=5.6 Hz, 1H), 6.93-7.04 (m, 2H), 4.93 (s, 2H), 4.20-4.26 (m, 2H), 4.14-4.19 (m, 2H), 3.71 (t, J=6.4 Hz, 2H), 2.88 (t, J=7.5 Hz, 2H), 1.96 (m, 2H).

reactant | 2,4-dichlorothieno[3,2-d]pyrimidine | ClC=1N=C(C2=C(N1)C=CS2)Cl | C6H2Cl2N2S
reactant | propane-1,3-diamine | C(CCN)N | C3H10N2
reactant | 2,3,4,5-tetrahydrobenzo[f][1,4]oxazepine | O1CCNCC2=C1C=CC=C2 | C9H11NO
product | N-[2-(2,3-Dihydro-1,4-benzoxazepin-4(5H)-yl)thieno[3,2-d]pyrimidin-4-yl]propane-1,3-diamine | O1CCN(CC2=C1C=CC=C2)C=2N=C(C1=C(N2)C=CS1)NCCCN | C18H21N5OS
